US06617330B2
(6-Chloro-2-propoxy-3-propyl-3H-quinazoline-4-ylidene)propylamine
In a small distillation apparatus 2.5 g (9.8 mmol) of 2-amino-5-chloro-N,N′-dipropylbenzamidine and 3.4 g (13.8 mmol) tetra-n-propylorthocarbonate are heated at 135° C. for 14 hours. Then propanol and excess tetra-n-propylorthocarbonate are distilled off in a water jet vacuum and the residue is purified by column chromatography on silica gel (eluant: hexane/tert.butylmethylether 10:1). Yield: 1.1 g of (6-chloro-2-propoxy-3-propyl-3H-quinazolidine-4-ylidene)propylamine in the form of brownish crystals, m.p. 50-51° C.

reactant | 2-amino-5-chloro-N,N′-dipropylbenzamidine | 9.8 mmol, 2.5 g | NC1=C(C(=NCCC)NCCC)C=C(C=C1)Cl | C13H20ClN3
reactant | tetra-n-propylorthocarbonate | 13.8 mmol, 3.4 g | C(CC)OC(OCCC)(OCCC)OCCC | C13H28O4
product | (6-Chloro-2-propoxy-3-propyl-3H-quinazoline-4-ylidene)propylamine | ClC=1C=C2C(N(C(=NC2=CC1)OCCC)CCC)=CCCN | C17H24ClN3O
